2153-01-17 07:52:00 Physician Resident Progress Note
Chief Complaint: Still c/o diffuse bone pain although less so than on
   presentation.  Persistent fatigue.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-1-16**] 03:30 PM
 PICC LINE - START [**2153-1-16**] 03:57 PM
 EKG - At [**2153-1-16**] 08:41 PM
   -Received pamidronate, calcitonin on presentation
   -Persistently hypotensive requiring levophed
   -Sustained wide complex tachycardia (likely VT given ruling in and no
   h/o SVT or a. fib previously) without significant HD compromise; self
   limited-->levophed changed to neo
   -Ruling in for MI by trops; getting ASA, not on BB given hypotension
   -Random cortisol level-->23.4
   -LFTs up from 2 days ago (previously normal); mainly transaminases.
   Alk phos only tiny bit elevated at 124 and t.bili normal
   -Lactate normalized to 2.0
   -PICC placed
   -Echo largely unchanged from prior without WMA, did show Grade II
   (moderate) LV diastolic dysfunction, perserved LV function, small
   pericardial effusion, moderate TR, mild MR, trace AR.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2153-1-16**] 08:00 PM
   Infusions:
   Phenylephrine - 1.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-1-17**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 67 (65 - 74) bpm
   BP: 104/51(64) {68/35(44) - 137/63(69)} mmHg
   RR: 21 (16 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 61.7 kg
             Total In:
                                                                  4,028 mL
                                                                    375 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  2,248 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,028 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Gen:  Chronically ill appearing, appears tired.  NAD.
   HEENT:  PERRL, no scleral icterus, dry MM.
   CV:  RRR, no mrg appreciated.
   Resp:  Decreased BS bibasilar, no wheezes/rhonchi.
   Abd:  +BS, soft, NT, ND.
   Ext:  RUE with forearm swelling after IV contrast extravasation.  No
   erythema/warmth, but TTP.
   Labs / Radiology
   263 K/uL
   9.8 g/dL
   84 mg/dL
   4.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   29 mg/dL
   106 mEq/L
   142 mEq/L
   29.2 %
   6.4 K/uL
        [image002.jpg]
                            [**2153-1-16**]  03:20 PM
                            [**2153-1-16**]  08:14 PM
                            [**2153-1-17**]  05:24 AM
   WBC
   6.4
   Hct
   30.2
   29.2
   Plt
   263
   Cr
   4.2
   4.5
   TropT
   0.95
   1.04
   1.15
   Glucose
   127
   84
   Other labs: PT / PTT / INR:37.1/46.7/4.0, CK / CKMB /
   Troponin-T:64/7/1.15, ALT / AST:[**Telephone/Fax (1) 7157**], Alk Phos / T Bili:128/0.8,
   Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, LDH:773 IU/L, Ca++:11.7
   mg/dL, Mg++:2.4 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   64yo woman with multiple myeloma, s/p allogeneic transplant [**2143**] with
   recurrent disease and with systemic amyloidosis(cardiac), ESRD on
   hemodialysis s/p recent hospitalization for hypercalcemia and
   supratherapeutic INR who represents for the same issues as well as
   hypotension.
   .
   # Hypotension/shock:  Patient with baseline SBPs in the 70s-80s,
   however documented noninvasive SBPs as low as the 50s in ED and in ICU
   with e/o end organ ischemia given elevated lactate, newly elevated
   transaminases, and elevated trop.  Did provide h/o poor PO and
   continued aggressive volume off at HD, but hypotension unresponsive to
   fluid back.  Other possible cause include underlying pneumonia (good
   specimen sputum is showing GPCs); she is without other clear source of
   infection currently.  Cardiogenic is certainly possible given h/o
   cardiac amyloid and known diastolic dysfunction as well as in setting
   of MI, however echo largely unchanged from prior and without
   significant WMA. Random cortisol appropriately elevated.  Levophed
   changed to neo following wide complex tachycardia.
   - continue neo for now with goal MAPs 50-55
   - monitor on tele
   - continue levofloxacin/vanco
   - checking central venous O2 sat
   .
   # Wide complex tachycardia:  Does not have known h/o SVT, a.
   fib/flutter to suggest SVT with aberrancy.  Given known cardiac
   amyloid, suspect VT and EKG with e/o AV dissociation.  It was slightly
   irregular, but ?
warm up
 phase of VT.  Experienced only small dip in
   BP during episode and was asymptomatic.
   - amiodarone loading now given second episode of sustained stable
   (probable) VT
   .
   # NSTEMI:  Trop continues to rise (negative CK, -MB).  Suspect in the
   setting of demand from hypotension and probable previously
   unrecognized/asymptomatic tachyarrhythmias.  Think less likely VT is
   d/t ischemia and ACS/acute plaque rupture.  TTE yesterday without noted
   WMA.
   -Continue aspirin
   -Continue to trend CEs awaiting trop peak
   .
   # Elevated transaminases:  Continue to rise and suspect d/t shock
   liver.  AP only very mildly elevated and t.bili normal so no e/o
   cholestatic process.  She is also without abdominal pain so as not to
   suggest cholangitis or cholecystitis as underlying cause of infection.
   - continue to monitor LFTs
   .
   # Hypercalcemia: in the setting of diffuse, recurrent MM c/b
   amyloidosis.  Improved s/p IV pamidronate, calcitonin.
   -continue HD
   -continue to monitor levels
   .
   # Increasing oxygen requirement: has chronic oxygen requirement due to
   amyloidosis involvement of the lungs. Also has h/o PEs and is s/p
   pleurodesis. CTA was negative for PE.   Did have some increased
   perihilar opacity on right on CT chest when compared with prior and,
   although not producing much sputum, did produce good specimen which
   shows GPCs.
   -wean oxygen as tolerated to home level 2-3 L
   -continue vanco/zosyn pending senses on GPCs
   .
   # Coagulopathy: Pt initially presented supratherapeutic at prior
   admission, had been subtherapeutic on discharge, Coumadin dose was
   increased upon last discharge. She has an extensive h/o thromobosis of
   unclear etiology.  INR supratherapeutic again on this presentation,
   improved after 1mg PO vitamin K x1.
   - hold coumadin, continue to monitor coags
   .
   # Multiple myeloma: Recurrent; c/b hypercalcemia and amyloidosis
   - heme/onc involved, appreciate their input
   - Continue decadron 20mg daily x5 days (day 1 is [**1-16**])
   - d/w hem/onc possibility of revlimid causing any of the presenting
   issues as above; otherwise plan per hem/onc is to restart revlimid
   .
   # Bone pain:  Given time course, most likely in the setting of
   bisphosphonate during last admission, now s/p additional dose on this
   presentation.  She remains quite uncomfortable.
   - morphine IV prn
   .
   # ESRD on HD: HD today. Pt does not make urine.
   - renal following appreciate their recs
   .
   # h/o PE/DVTs: thought to be due to med effect
   - currently supratherapeutic INR
   .
   # Contrast infiltration: in SC tissues, ~45cc.
   -f/u plastics recs
   .
   # FEN: Monitoring electrolytes, regular diet.
   .
   # Prophylaxis: INR supratherapeutic, pneumoboots.
   .
   # Access: PICC.
   .
   # Code: DNR/DNl
   .
   # Communication: Patient and husband.
   .
   # Disposition:  ICU level care.
   .
   ICU Care
   Nutrition: Regular diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-1-16**] 10:51 AM
   18 Gauge - [**2153-1-16**] 10:52 AM
   PICC Line - [**2153-1-16**] 03:57 PM
   Prophylaxis:
   DVT:  INR supratherapeutic.
   Code status: DNR / DNI

2153-01-17 09:14:00 Physician Attending Progress Note
Chief Complaint: Hypotension, Dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64  y/o woman with PMH of MM and [**Doctor Last Name **] amyloid who presents with sub-acute
   progressive dyspnea, hypotension and refractory hypercalcemia. Please
   see previous notes for details.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-1-16**] 03:30 PM
 PICC LINE - START [**2153-1-16**] 03:57 PM
 EKG - At [**2153-1-16**] 08:41 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2153-1-16**] 08:00 PM
   Infusions:
   Phenylephrine - 1.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-1-17**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 77 (65 - 77) bpm
   BP: 104/53(66) {68/35(44) - 137/63(69)} mmHg
   RR: 30 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.7 kg (admission): 61.7 kg
             Total In:
                                                                  4,028 mL
                                                                    406 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  2,248 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,028 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   263 K/uL
   84 mg/dL
   4.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   29 mg/dL
   106 mEq/L
   142 mEq/L
   29.2 %
   6.4 K/uL
        [image002.jpg]
                            [**2153-1-16**]  03:20 PM
                            [**2153-1-16**]  08:14 PM
                            [**2153-1-17**]  05:24 AM
   WBC
   6.4
   Hct
   30.2
   29.2
   Plt
   263
   Cr
   4.2
   4.5
   TropT
   0.95
   1.04
   1.15
   Glucose
   127
   84
   Other labs: PT / PTT / INR:37.1/46.7/4.0, CK / CKMB /
   Troponin-T:64/7/1.150, ALT / AST:[**Telephone/Fax (1) 7157**], Alk Phos / T Bili:128/0.8,
   Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, LDH:773 IU/L, Ca++:11.7
   mg/dL, Mg++:2.4 mg/dL, PO4:6.3 mg/dL
   ECG: VT on EKG this am
   Assessment and Plan
   64 year old woman with MM and amyloid s/p allo transplant in [**2143**],
   presents with hypotension, increased O2 requirement/hypoxemic
   respiratory failure, transaminitis, recurrent hypercalcemia, and
   NSTEMI.
   Increase in perihilar consolidation on chest CT as well as positive
   sputum culture so suspect new pneumonia and decreased SVR. Less likely
   adrenal insufficiency given cortisol of 23. Titrate neo to MAP of 55,
   check cv02, plan to keep volume even with HD. TTE yesterday with
   relatively little change, but with stable ventricular arrhythmia today.
   No evidence of ischemic changes on admission EKG so suspect etiology is
   d/t conduction abnormality from amyloid in context of infection. Will
   start amiodarone. Continue vanc/levo pending final cultures.
   Hypercalcemia improving. Further plans as per resident note.
   ICU Care
   Nutrition:  PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2153-1-16**] 10:51 AM
   18 Gauge - [**2153-1-16**] 10:52 AM
   PICC Line - [**2153-1-16**] 03:57 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2153-01-18 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2153-1-17**] 01:21 PM
   [**1-17**] Amio loaded for VT, no new episodes
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-1-17**] 12:00 PM
   Levofloxacin - [**2153-1-17**] 08:03 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-1-17**] 09:00 AM
   Morphine Sulfate - [**2153-1-17**] 11:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-1-18**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 58 (56 - 135) bpm
   BP: 93/46(58) {81/43(56) - 104/68(72)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 61.7 kg (admission): 61.7 kg
             Total In:
                                                                  1,720 mL
                                                                    486 mL
   PO:
             TF:
   IVF:
                                                                  1,720 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,420 mL
                                                                    486 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   235 K/uL
   10.3 g/dL
   377 mg/dL
   3.4 mg/dL
   16 mEq/L
   5.4 mEq/L
   30 mg/dL
   96 mEq/L
   129 mEq/L
   31.6 %
   14.3 K/uL
        [image002.jpg]
                            [**2153-1-16**]  03:20 PM
                            [**2153-1-16**]  08:14 PM
                            [**2153-1-17**]  05:24 AM
                            [**2153-1-18**]  05:12 AM
   WBC
   6.4
   14.3
   Hct
   30.2
   29.2
   31.6
   Plt
   263
   235
   Cr
   4.2
   4.5
   3.4
   TropT
   0.95
   1.04
   1.15
   1.45
   Glucose
   127
   84
   377
   Other labs: PT / PTT / INR:39.7/39.3/4.3, CK / CKMB /
   Troponin-T:203/4/1.45, ALT / AST:2961/5954, Alk Phos / T Bili:137/1.2,
   Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, LDH:3970 IU/L, Ca++:11.7
   mg/dL, Mg++:2.4 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   64yo woman with multiple myeloma, s/p allogeneic transplant [**2143**] with
   recurrent disease and with systemic amyloidosis(cardiac), ESRD on
   hemodialysis s/p recent hospitalization for hypercalcemia and
   supratherapeutic INR who represents for the same issues as well as
   hypotension.
   .
   # Hypotension/shock:  Patient with baseline SBPs in the 70s-80s,
   however documented noninvasive SBPs as low as the 50s in ED and in ICU
   with e/o end organ ischemia given elevated lactate, newly elevated
   transaminases, and elevated trop.  Did provide h/o poor PO and
   continued aggressive volume off at HD, but hypotension unresponsive to
   fluid back.  Other possible cause include underlying pneumonia (good
   specimen sputum is showing GPCs); she is without other clear source of
   infection currently.  Cardiogenic is certainly possible given h/o
   cardiac amyloid and known diastolic dysfunction as well as in setting
   of MI, however echo largely unchanged from prior and without
   significant WMA. Random cortisol appropriately elevated.  Levophed
   changed to neo following wide complex tachycardia.
   - continue neo for now with goal MAPs 50-55
   - monitor on tele
   - continue levofloxacin/vanco
   - checking central venous O2 sat
   .
   # Wide complex tachycardia:  Does not have known h/o SVT, a.
   fib/flutter to suggest SVT with aberrancy.  Given known cardiac
   amyloid, suspect VT and EKG with e/o AV dissociation.  It was slightly
   irregular, but ?
warm up
 phase of VT.  Experienced only small dip in
   BP during episode and was asymptomatic.
   - amiodarone loading now given second episode of sustained stable
   (probable) VT
   .
   # NSTEMI:  Trop continues to rise (negative CK, -MB).  Suspect in the
   setting of demand from hypotension and probable previously
   unrecognized/asymptomatic tachyarrhythmias.  Think less likely VT is
   d/t ischemia and ACS/acute plaque rupture.  TTE yesterday without noted
   WMA.
   -Continue aspirin
   -Continue to trend CEs awaiting trop peak
   .
   # Elevated transaminases:  Continue to rise and suspect d/t shock
   liver.  AP only very mildly elevated and t.bili normal so no e/o
   cholestatic process.  She is also without abdominal pain so as not to
   suggest cholangitis or cholecystitis as underlying cause of infection.
   - continue to monitor LFTs
   .
   # Hypercalcemia: in the setting of diffuse, recurrent MM c/b
   amyloidosis.  Improved s/p IV pamidronate, calcitonin.
   -continue HD
   -continue to monitor levels
   .
   # Increasing oxygen requirement: has chronic oxygen requirement due to
   amyloidosis involvement of the lungs. Also has h/o PEs and is s/p
   pleurodesis. CTA was negative for PE.   Did have some increased
   perihilar opacity on right on CT chest when compared with prior and,
   although not producing much sputum, did produce good specimen which
   shows GPCs.
   -wean oxygen as tolerated to home level 2-3 L
   -continue vanco/zosyn pending senses on GPCs
   .
   # Coagulopathy: Pt initially presented supratherapeutic at prior
   admission, had been subtherapeutic on discharge, Coumadin dose was
   increased upon last discharge. She has an extensive h/o thromobosis of
   unclear etiology.  INR supratherapeutic again on this presentation,
   improved after 1mg PO vitamin K x1.
   - hold coumadin, continue to monitor coags
   .
   # Multiple myeloma: Recurrent; c/b hypercalcemia and amyloidosis
   - heme/onc involved, appreciate their input
   - Continue decadron 20mg daily x5 days (day 1 is [**1-16**])
   - d/w hem/onc possibility of revlimid causing any of the presenting
   issues as above; otherwise plan per hem/onc is to restart revlimid
   .
   # Bone pain:  Given time course, most likely in the setting of
   bisphosphonate during last admission, now s/p additional dose on this
   presentation.  She remains quite uncomfortable.
   - morphine IV prn
   .
   # ESRD on HD: HD today. Pt does not make urine.
   - renal following appreciate their recs
   .
   # h/o PE/DVTs: thought to be due to med effect
   - currently supratherapeutic INR
   .
   # Contrast infiltration: in SC tissues, ~45cc.
   -f/u plastics recs
   .
   # FEN: Monitoring electrolytes, regular diet.
   .
   # Prophylaxis: INR supratherapeutic, pneumoboots.
   .
   # Access: PICC.
   .
   # Code: DNR/DNl
   .
   # Communication: Patient and husband.
   .
   # Disposition:  ICU level care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-1-16**] 10:51 AM
   18 Gauge - [**2153-1-16**] 10:52 AM
   PICC Line - [**2153-1-16**] 03:57 PM
   Dialysis Catheter - [**2153-1-17**] 01:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: